US04996230
C. Preparation of 4-[3-(decyloxy)-4-(2-propenyl)phenoxy]benzoic acid ethyl ester
Following the general procedure of Example 1H above, 7.11 g of 4-[3-hydroxy-4-(2-propenyl)phenoxy]benzoic acid ethyl ester was allowed to react with 6.38 g of decyl iodide in the presence of 3.3 g of potassium carbonate to provide 5.02 g of the desired subtitle intermediate as an oil.

reactant | 4-[3-hydroxy-4-(2-propenyl)phenoxy]benzoic acid ethyl ester | 7.11 g | C(C)OC(C1=CC=C(C=C1)OC1=CC(=C(C=C1)CC=C)O)=O | C18H18O4
reactant | decyl iodide | 6.38 g | C(CCCCCCCCC)I | C10H21I
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
product | 4-[3-(decyloxy)-4-(2-propenyl)phenoxy]benzoic acid ethyl ester | 5.02 g | C(C)OC(C1=CC=C(C=C1)OC1=CC(=C(C=C1)CC=C)OCCCCCCCCCC)=O | C28H38O4
